US04423213
Trifluoroacetic acid (5.75 g) was added to a solution of pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-benzhydryloxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (3.7 g) in methylene chloride (14.8 ml) and anisole (1.09 g) under ice-cooling, and the mixture was stirred for an hour at ambient temperature. Then the reaction mixture was added dropwise to diisopropyl ether (160 ml). The precipitates were collected by filtration and washed with diisopropyl ether, followed by adding them to a mixture of water (60 ml) and ethyl acetate (60 ml). The resultant mixture was adjusted to pH 7.0 with a saturated aqueous sodium bicarbonate. The separated aqueous solution was further adjusted to pH 2.5 with 10% hydrochloric acid. The precipitates were collected by filtration, washed with water and then dried over phosphorus pentoxide in vacuo to give pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (2.13 g).

reactant | Trifluoroacetic acid | 5.75 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-benzhydryloxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 3.7 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OCOC(C(C)(C)C)=O)C1=O)=NOCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C35H35N5O9S2
reactant | anisole | 1.09 g | C1(=CC=CC=C1)OC | C7H8O
reactant | diisopropyl ether | 160 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 14.8 ml | C(Cl)Cl | CH2Cl2
product | pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 2.13 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OCOC(C(C)(C)C)=O)C1=O)=NOCC(=O)O | C22H25N5O9S2
